US09371320B2
B) 7-chloro-1-(2,6-difluorophenyl)-4-methoxy-3-(1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazol-4-yl)-1H-pyrazolo[4,3-c]pyridine
To a solution of 7-chloro-1-(2,6-difluorophenyl)-4-methoxy-3-(1H-pyrazol-4-yl)-1H-pyrazolo[4,3-c]pyridine in tetrahydrofuran (3 mL) were added tetrahydro-2H-pyran-4-ol (0.160 ml), triphenylphosphine (527 mg) and di-tert-butyl (E)-diazene-1,2-dicarboxylate (2.505 ml) at room temperature, and the mixture was stirred overnight at room temperature. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (140 mg).

reactant | 7-chloro-1-(2,6-difluorophenyl)-4-methoxy-3-(1H-pyrazol-4-yl)-1H-pyrazolo[4,3-c]pyridine | ClC=1C2=C(C(=NC1)OC)C(=NN2C2=C(C=CC=C2F)F)C=2C=NNC2 | C16H10ClF2N5O
reactant | tetrahydro-2H-pyran-4-ol | 0.160 ml | O1CCC(CC1)O | C5H10O2
reactant | triphenylphosphine | 527 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl (E)-diazene-1,2-dicarboxylate | 2.505 ml | N(=N\C(=O)OC(C)(C)C)/C(=O)OC(C)(C)C | C10H18N2O4
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 7-chloro-1-(2,6-difluorophenyl)-4-methoxy-3-(1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazol-4-yl)-1H-pyrazolo[4,3-c]pyridine | 140 mg | ClC=1C2=C(C(=NC1)OC)C(=NN2C2=C(C=CC=C2F)F)C=2C=NN(C2)C2CCOCC2 | C21H18ClF2N5O2
